US07060369B2
Synthesis of 1,4-bis(dimesitylboryl)benzene
25.9 ml (44 mmol) of a 1.7 M solution of tert-butyllithium in n-hexane was added dropwise to a well-stirred solution of 2.36 g (10 mmol) of 1,4-dibromobenzene in 200 ml of absolute THF which had been cooled to −78° C. over a period of 20 minutes at such a rate that the temperature of the reaction mixture did not exceed −65° C. The solution was stirred for another 1 hour at −78° C. and a solution of 6.44 g (24 mmol) of fluorodimesitylborane in 50 ml of absolute THF was then added dropwise over a period of 20 minutes at such a rate that the temperature of the reaction mixture did not exceed −65° C.

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 1,4-dibromobenzene | 10 mmol, 2.36 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | fluorodimesitylborane | 24 mmol, 6.44 g | FB(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C | C18H22BF
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1,4-bis(dimesitylboryl)benzene | C1(=C(C(=CC(=C1)C)C)B(C1=CC=C(C=C1)B(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C | C42H48B2
